STTNG CPU switch voltage margin rail10.9175_logic5.25_contact0.1; manual printed 3-2 and 3-3
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb/tools/spice/models.lib
V12 twelve 0 10.9175196
V5 five 0 5.25
Vcolumncmd ccmd 0 PULSE(0 5 1m 20n 20n 1m 3m)
Rcdriver ccmd cin 30
Xcolumn cin column ULN2803CH
Rcolumn twelve column 1k
Ccolumn column 0 470p
Rpull twelve row 1.2k
Crow row 0 470p
Rsense row sense 1k
Dcpu row switch_wire D1N4148
Rcontact switch_wire sw 0.1
Dplayfield sw column D1N4148
* Harness capacitance is a sensitivity assumption in addition to the manual.
Charness switch_wire 0 2n
Xcomparator sense five out LM339
Routput five out 10k
.save v(row) v(sense) v(out) v(column)
.options method=gear reltol=.0001
.tran 100n 3m 0 100n
.control
run
let sim_end=time[length(time)-1]
print sim_end
let margin_open=v(sense)-5.25
let margin_closed=5.25-v(sense)
meas tran input_open_margin MIN margin_open from=500u to=900u
meas tran input_closed_margin MIN margin_closed from=1100u to=1900u
meas tran output_high MIN v(out) from=500u to=900u
meas tran output_low MAX v(out) from=1100u to=1900u
meas tran return_high MIN v(out) from=2100u to=2900u
.endc
.end
