TI TPS54360 transient model, 12v actual compensation, Vin=20.69
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb/.scratch/vendor-models/SLVMCT7/TPS54360_PSPICE_TRANS/TPS54360_TRANS.LIB
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb/tools/spice/models.lib

Cin buck_input 0 20u
XU boot comp en 0 sw rt buck_input fb 0 TPS54360_TRANS
Ren1 buck_input en 130k
Ren2 en 0 20k
Rrt rt 0 240k
Cboot boot sw 100n
Rfb1 vout fb 28k
Rfb2 fb 0 2k
Rc comp cc 42.2k
Cc cc 0 100n
Cp comp 0 390p
Dcatch 0 sw DB560C
L1 sw linductor 10u
Rdcr linductor vout .025
Cout1 vout c1 330u
Resr1 c1 0 .045
Cout2 vout c2 330u
Resr2 c2 0 .045
Cc3 vout 0 10u
Rload vout 0 16


* AC secondary, winding resistance, four Schottky diodes and reservoir.
Bsecondary secp secn V=16.92*sin(2*3.141592653589793*60*time)
Rsec1 secp acp .05
Rsec2 secn acn .05
Dbridge1 acp vinf DSCH20100
Dbridge2 acn vinf DSCH20100
Dbridge3 0 acp DSCH20100
Dbridge4 0 acn DSCH20100
Creservoir stored 0 8000u
Rreservoir stored vinf .05
Rrawbleed vinf 0 5000
Rlamps vinf 0 2.5


* Hypothetical C7 input hold-up; B560C is already a selected board part.
Disolate vinf buck_input DB560C
Rdedicated buck_input dedicated_stored .05
Cdedicated dedicated_stored 0 8000u

.save v(vout) v(vinf) v(buck_input) v(en) v(comp) i(L1) @disolate[id]
.options reltol=.005 abstol=1u vntol=1m method=gear klu itl4=100
.tran 1u 0.03 0 250n
.control
run
let sim_end=time[length(time)-1]
print sim_end
meas tran output_peak MAX v(vout)
meas tran output_min MIN v(vout)
meas tran inductor_peak MAX i(L1)
meas tran inductor_min MIN i(L1)
meas tran isolation_diode_peak MAX @disolate[id]
meas tran recovery_min MIN v(vout) from=0.0216666666667 to=0.03
meas tran recovery_max MAX v(vout) from=0.0216666666667 to=0.03
meas tran recovery_avg AVG v(vout) from=0.0216666666667 to=0.03
meas tran headroom_min MIN v(buck_input) from=0.0216666666667 to=0.03
set wr_singlescale
set wr_vecnames
linearize v(vout) v(vinf) v(buck_input) v(comp) i(L1)
wrdata /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb/output/verification/continuation/isolated-buck/startup_0.75A_f60_cc100n_stop30m.csv v(vout) v(vinf) v(buck_input) v(comp) i(L1)
.endc
.end
